US05475113
(±)-[1-(3-chloro-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl)ethan-1-yl]triphenylphosphonium bromide
To a solution of 3.15 g (11.8 mmol) of (±)-1-(3-chloro-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl) ethanol in ether and hexane stirring at 0° C. under argon, was added dropwise 31.9 g (11.2 mL, 118 mmol) of phosphorus tribromide and the mixture stirred 1.5 hours. Water was then carefully added and the mixture extracted with several portions of ether. The ether extracts were washed with water, sodium bicarbonate, brine, and dried (MgSO4). The solvent was removed in-vacuo and the residual oil taken up in 175 mL of benzene. To this was added 3.09 g (11.8 mmol) of triphenylphosphine and the solution stirred for 24 hours at room temperature. Purification was done using flash chromatography (SiO2, 0.5% ethyl acetate in hexanes, 5% MeOH in methylene chloride) to give the title compound as a white foam.

reactant | (±)-1-(3-chloro-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl) ethanol | 11.8 mmol, 3.15 g | ClC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)O | C16H23ClO
reactant | phosphorus tribromide | 118 mmol, 11.2 mL, 31.9 g | P(Br)(Br)Br | Br3P
reactant | Water | O | H2O
reactant | triphenylphosphine | 11.8 mmol, 3.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | (±)-[1-(3-chloro-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl)ethan-1-yl]triphenylphosphonium bromide | [Br-].ClC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C34H37ClP.BrH/c1-25(29-23-30-31(24-32(29)35)34(4,5)22-21-33(30,2)3)36(26-15-9-6-10-16-26,27-17-11-7-12-18-27)28-19-13-8-14-20-28;/h6-20,23-25H,21-22H2,1-5H3;1H/q+1;/p-1
